US04305932
A solution of ethoxyquin (30 g) in ethylacetate (300 ml) was added dropwise at room temperature to a stirred saturated solution of phosgene in ethylacetate (100 ml). Phosgene was rapidly and continuously bubbled into the stirred solution during the period of addition (2 hours). After the addition of the ethoxyquin solution was finished, phosgene bubbling was stopped and the solvent was gradually distilled (atmospheric pressure). At the end of the distillation, CCl4 (50 ml) was added and distillation continued under a slow stream of N2 (to eliminate traces of phosgene), another portion of CCl4 (50 ml) was added. Undesired ethoxyquin hydrochloride was filtered off (9.26 g), and the filtrate was evaporated to dryness under reduced pressure, yielding 1-Chlorocarbonyl-6-ethoxy-1,2-dihydro-2,2,4-trimethylquinoline as yellow, viscous syrup, which crystallised on standing (31.67 g). Recrystallisation from acetone. m.p.: 75.5°-76.5°.

reactant | ethoxyquin | 30 g | CCOC1=CC=C2C(=C1)C(=CC(N2)(C)C)C | C14H19NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | ethylacetate | 300 ml | C(C)OC(C)=O | C4H8O2
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
product | 1-Chlorocarbonyl-6-ethoxy-1,2-dihydro-2,2,4-trimethylquinoline | ClC(=O)N1C(C=C(C2=CC(=CC=C12)OCC)C)(C)C | C15H18ClNO2
